US07098337B2
b) (4R,9aR)-6-(3-Methoxy-propyl)-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester
A solution of 160.0 mg (0.46 mmol) (4R,9aR)-6-(3-hydroxy-propyl)-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester in 4 ml tetrahydrofuran was cooled to 0 deg C. and treated with 24.0 mg (0.51 mmol, 60% dispersion in mineral oil) sodium hydride. After 30 min 32 μl (0.51 mmol) methyl iodide was added and the cooling bath was removed. After 6 h another 0.64 μl (1.02 mmol) methyl iodide was added and the reaction was stirred overnight. The reaction mixture was poured into water and was extracted three times with ethyl acetate. The combined organic layers were washed with brine, dried over magnesium sulfate, filtered and concentrated on a rotary evaporator. The residue was purified by chromatography on silica gel (0.032–0.063 mm) with ethyl acetate:n-hexane (1:4) as eluant to afford the desired compound as a colorless oil (73.9%).

reactant | (4R,9aR)-6-(3-hydroxy-propyl)-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 0.46 mmol, 160.0 mg | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC=C(N=C3N2[C@@H](C1)C)CCCO | C19H29N3O3
reactant | sodium hydride | 0.51 mmol, 24.0 mg | [H-].[Na+]
reactant | methyl iodide | 0.51 mmol, 32 μl | CI | CH3I
reactant | methyl iodide | 1.02 mmol, 0.64 μl | CI | CH3I
reactant | water | O | H2O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | (4R,9aR)-6-(3-Methoxy-propyl)-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 73.9% | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC=C(N=C3N2[C@@H](C1)C)CCCOC | C20H31N3O3
